US08076052B2
Synthesis of N-(4-Carboxyphenyl)methacrylamide (N-BAMAAm):
Methyl cellosolve (199.8 g), N-methoxymethyl methacrylamide (18 g), benzyl methacrylate (11.4 g), methacrylic acid (3 g), dodecyl mercaptan (0.075 g), and Vazo-64 (0.6 g) were added to 500 ml 4-neck ground glass flask, equipped with a heating mantle, temperature controller, mechanical stirrer, condenser, pressure equalized addition funnel and nitrogen inlet. The reaction mixture was heated to 80° C. under nitrogen atmosphere. Then, a pre-mixture of N-methoxymethyl methacrylamide (55 g), benzyl methacrylate (34 g), methacrylic acid (9 g), dodecyl mercaptan (0.225 g), and Vazo-64 (1.2 g) were added over two hours at 80° C. The reaction was continued another eight hours and Vazo 64 (0.35 g) was added two more times. The polymer conversion was >99% based on determination of percent of non-volatiles. The weight ratio of N-methoxymethyl methacrylamide/benzyl methacrylate/methacrylic acid in the polymer was 56/34.8/9.2. The resin solution was precipitated in powder form using DI water/Ice (3:1) and a Lab Dispersator (4000 RPM) and then filtered. The resulting powder was dried at room temperature for 24 hours. The next day, a tray containing the polymer was placed in oven at 110° F. (43° C.) for two additional days. The yield was 95% and polymer acid number was 58 (actual) versus 58.8 (theoretical).

reactant | N-methoxymethyl methacrylamide | 18 g | COCNC(C(=C)C)=O | C6H11NO2
reactant | benzyl methacrylate | 11.4 g | C(C(=C)C)(=O)OCC1=CC=CC=C1 | C11H12O2
reactant | methacrylic acid | 3 g | C(C(=C)C)(=O)O | C4H6O2
reactant | dodecyl mercaptan | 0.075 g | C(CCCCCCCCCCC)S | C12H26S
reactant | Vazo-64 | 0.6 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | N-methoxymethyl methacrylamide | 55 g | COCNC(C(=C)C)=O | C6H11NO2
reactant | benzyl methacrylate | 34 g | C(C(=C)C)(=O)OCC1=CC=CC=C1 | C11H12O2
reactant | methacrylic acid | 9 g | C(C(=C)C)(=O)O | C4H6O2
reactant | dodecyl mercaptan | 0.225 g | C(CCCCCCCCCCC)S | C12H26S
reactant | Vazo-64 | 1.2 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | Vazo 64 | 0.35 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | N-methoxymethyl methacrylamide benzyl methacrylate methacrylic acid | COCNC(C(=C)C)=O.C(C(=C)C)(=O)OCC1=CC=CC=C1.C(C(=C)C)(=O)O
solvent | Methyl cellosolve | 199.8 g | COCCO | C3H8O2
product | N-(4-Carboxyphenyl)methacrylamide | C(=O)(O)C1=CC=C(C=C1)NC(C(=C)C)=O | C11H11NO3
